US04602030
1-Bromo-3-(4'-tert-butylphenylthio)-propan-2-ol
To a stirred solution of 64.9 ml [103.67 g (0.758 mole)] 1-bromo-2,3-epoxypropane dissolved in 18 ml methanol/triethylamine (1:1) cooled to 5°-10° C. in a water-ice bath, 124.5 g (0.75 mole) p-tert-butylthiophenol was added dropwise. After the addition was complete (about 21/4 hours), the reaction mixture was allowed to come to room temperature and was allowed to stir at room temperature for about 2 hours. Volatiles were removed in vacuo to give 233.1 g of crude product as a viscous oil.

reactant | 1-bromo-2,3-epoxypropane | 0.758 mole, 64.9 ml, 103.67 g | BrCC1CO1 | C3H5BrO
reactant | p-tert-butylthiophenol | 0.75 mole, 124.5 g | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
solvent | methanol triethylamine | 18 ml | CO.C(C)N(CC)CC
product | 1-Bromo-3-(4'-tert-butylphenylthio)-propan-2-ol | 233.1 g | BrCC(CSC1=CC=C(C=C1)C(C)(C)C)O | C13H19BrOS
